US07037938B2
Under nitrogen at −60° C., to a solution of tert-butyl [2-(4-hydroxyphenyl)ethl][(2R)-2-hydroxy-2-(3-pyridyl)-ethyl]carbamate (570 mg) and 2,6-lutidine (0.22 ml) in dichloromethane (10 ml) was added trifluoromethanesulfonic anhydride (0.28 ml), and the mixture was stirred at the same temperature for 1 hour. The resulting mixture was poured into aqueous ammonia and the aqueous mixture was extracted with ethyl acetate. The organic layer was washed successively with 1N hydrochloric acid, water, saturated aqueous sodium bicarbonate and brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=1:1) to give 4-[2-[(tert-butoxycarbonyl)[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]amino]-ethyl]phenyl trifluoromethanesulfonate (640 mg) as a colorless foam.

reactant | tert-butyl [2-(4-hydroxyphenyl)ethl][(2R)-2-hydroxy-2-(3-pyridyl)-ethyl]carbamate | 570 mg | OC1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@@H](C=1C=NC=CC1)O | C20H26N2O4
reactant | 2,6-lutidine | 0.22 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 0.28 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonia | N | H3N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[2-[(tert-butoxycarbonyl)[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]amino]-ethyl]phenyl trifluoromethanesulfonate | 640 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)CCN(C[C@@H](C=1C=NC=CC1)O)C(=O)OC(C)(C)C)(F)F | C21H25F3N2O6S
